US08445480B2
Step C: 4-{5-Cyano-7-[(1Z)-1-methylprop-1-en-1-yl]-1,3-benzoxazol-2-yl}-N-({1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}methyl)benzamide
The title compound was prepared from 4-(7-bromo-5-cyano-1,3-benzoxazol-2-yl)-N-({1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}methyl)benzamide and [(1E)-1-methylprop-1-en-1-yl]boronic acid by a procedure analogous to that described in EXAMPLE 113, Step B. Mass spectrum (ESI) 560.2 (M+1).

reactant | 4-(7-bromo-5-cyano-1,3-benzoxazol-2-yl)-N-({1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}methyl)benzamide | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C(=O)NCC1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)C=C2)C#N | C27H21BrF3N5O2
reactant | [(1E)-1-methylprop-1-en-1-yl]boronic acid | C\C(=C\C)\B(O)O | C4H9BO2
product | 4-{5-Cyano-7-[(1Z)-1-methylprop-1-en-1-yl]-1,3-benzoxazol-2-yl}-N-({1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}methyl)benzamide | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3CCN(CC3)C3=NC=C(C=C3)C(F)(F)F)C=C2)C1)\C(=C/C)\C | C31H28F3N5O2
